US08097628B2
(c) Butyl (2E)-3-[2-[(2,2-dimethylpropanoyl)amino]-6-(methyloxy)-3-pyridinyl]-2-propenoate
A mixture of N-[3-bromo-6-(methyloxy)-2-pyridinyl]-2,2-dimethylpropanamide (78.738 g, 274 mmol), bis(tri-t-butylphosphine)palladium(0) (1 g, 1.957 mmol) and tris(dibenzylideneacetone)dipalladium(0) (0.892 g, 0.974 mmol) in dry, degassed 1,4-dioxane (600 ml) was treated with n-butyl acrylate (47.1 ml, 329 mmol) and dicyclohexylmethylamine (64.5 ml, 302 mmol). The reaction mixture was then heated at 80° C. for 4 h and then at 120° C. for 3 h. The reaction was then evaporated and water (1000 ml) was added and the mixture was extracted with Et2O (3×500 ml). The combined organic solvents were then dried (MgSO4), filtered, evaporated to give the crude product. This was then dissolved in DCM (300 ml) and chromatographed (10-30% EtOAc:40-60 petroleum ether) and then dried in vacuo to give product as a white solid (87.412 g, 95%).

reactant | N-[3-bromo-6-(methyloxy)-2-pyridinyl]-2,2-dimethylpropanamide | 274 mmol, 78.738 g | BrC=1C(=NC(=CC1)OC)NC(C(C)(C)C)=O | C11H15BrN2O2
reactant | n-butyl acrylate | 329 mmol, 47.1 ml | C(C=C)(=O)OCCCC | C7H12O2
reactant | dicyclohexylmethylamine | 302 mmol, 64.5 ml | C1(CCCCC1)C(C1CCCCC1)N | C13H25N
solvent | DCM | 300 ml | C(Cl)Cl | CH2Cl2
catalyst | bis(tri-t-butylphosphine)palladium(0) | 1.957 mmol, 1 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.974 mmol, 0.892 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Butyl (2E)-3-[2-[(2,2-dimethylpropanoyl)amino]-6-(methyloxy)-3-pyridinyl]-2-propenoate | 87.412 g, 95% | CC(C(=O)NC1=NC(=CC=C1/C=C/C(=O)OCCCC)OC)(C)C | C18H26N2O4
